US07981903B2
To a solution of 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,9-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (300 mg, 0.445 mmol) in THF (5 mL) was added methylamine (2 M solution in THF) (2.23 mL, 4.45 mmol). The resulting mixture was let stir at rt for 10 min at which time it was diluted with ethyl acetate and washed with water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure. The residue was purified via chromatography on SiO2 and afforded 6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-methylbenzamide (143 mg, 0.203 mmol) as an off white solid. (ESIMS (M+H)+=705)

reactant | 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,9-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.445 mmol, 300 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC=C(C(=C4C(N31)=O)F)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C33H29F2N7O5S
reactant | methylamine | 4.45 mmol, 2 M, 2.23 mL | CN | CH5N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-methylbenzamide | 0.203 mmol, 143 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=CC=C(C(=C2C(=O)NC)F)F)OC)C | C34H34F2N8O5S
